US08877760B2
A mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-4-methylpentanamide (68 mg, 0.254 mmol), 4-(isoxazol-5-yl)aniline (60 mg, 0.375 mmol), K2CO3 (80 mg, 0.579 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (10 mg, 0.044 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 20 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(5-cyano-6-(4-(isoxazol-5-yl)phenylamino)pyrazin-2-ylamino)-4-methylpentanamide (5 mg).

reactant | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-4-methylpentanamide | 0.254 mmol, 68 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC(C)C)C#N | C11H14ClN5O
reactant | 4-(isoxazol-5-yl)aniline | 0.375 mmol, 60 mg | O1N=CC=C1C1=CC=C(N)C=C1 | C9H8N2O
reactant | K2CO3 | 0.579 mmol, 80 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.040 mmol, 25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.044 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(5-cyano-6-(4-(isoxazol-5-yl)phenylamino)pyrazin-2-ylamino)-4-methylpentanamide | 5 mg | C(#N)C=1N=CC(=NC1NC1=CC=C(C=C1)C1=CC=NO1)N[C@@H](C(=O)N)CC(C)C | C20H21N7O2
